US06331640B1
Acetic anhydride (1.68 mL, 17.8 mmol) was added to a suspension of 3-amino-2-methylbenzyl alcohol (0.82 g, 5.98 mmol) in chloroform (25 mL). Potassium acetate was added and the resulting mixture was stirred at room temperature for 3 h, under reflux for 2 h, and then at room temperature overnight. Amyl nitrite (1.82 mL, 13.7 mmol) and 18-crown-6 (79 mg, 0.3 mmol) were added and the pale yellow cloudy mixture was heated at reflux overnight, then allowed to cool to room temperature and stir for 5 h. The reaction mixture was poured into acetic anhydride (5 mL) and stirred at room temperature overnight. Dichloromethane (20 mL) was added and the solution was washed with sodium hydrogen carbonate solution, water, and brine (10 mL each), dried (Na2SO4), filtered, concentrated, and chromatographed (10-40% ethyl acetate/petroleum ether) to give 1-acetyl-1H-indazole-4-methanol, acetate ester (1.19 g, 86%) as a pale yellow solid.

reactant | Acetic anhydride | 17.8 mmol, 1.68 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-2-methylbenzyl alcohol | 5.98 mmol, 0.82 g | NC=1C(=C(CO)C=CC1)C | C8H11NO
reactant | Potassium acetate | C(C)(=O)[O-].[K+]
reactant | Amyl nitrite | 13.7 mmol, 1.82 mL | N(=O)OCCCCC | C5H11NO2
reactant | 18-crown-6 | 0.3 mmol, 79 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-acetyl-1H-indazole-4-methanol | C(C)(=O)N1N=CC=2C(=CC=CC12)CO | C10H10N2O2
